US08686165B2
Crude docetaxel (1.0 g,) was dissolved in a solution of ethanol:cyclohexane:demineralised water:ethyl acetate (20:2:10:0.8) at 25-30° C. under constant stirring. The clear biphasic reaction was then concentrated to 20 ml and cooled to 5-10° C. The precipitated solid was stirred for 25-30 min. at 5-10° C., then filtered, washed with DM water (1 ml) and dried under vacuum under humid atmosphere (until the moisture content was between 5-7% by Karl Fischer method) to afford Docetaxel trihydrate in 70-90% yield.

reactant | docetaxel | 1.0 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)OC(C)(C)C)O)O)OC(=O)C=6C=CC=CC6)(CO4)OC(=O)C)O)C)O | C43H53NO14
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | ethanol | C(C)O | C2H6O
product | Docetaxel trihydrate | 70-90% yield | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)OC(C)(C)C)O)O)OC(=O)C6=CC=CC=C6)(CO4)OC(=O)C)O)C)O.O.O.O | InChI=1S/C43H53NO14.3H2O/c1-22-26(55-37(51)32(48)30(24-15-11-9-12-16-24)44-38(52)58-39(3,4)5)20-43(53)35(56-36(50)25-17-13-10-14-18-25)33-41(8,34(49)31(47)29(22)40(43,6)7)27(46)19-28-42(33,21-54-28)57-23(2)45;;;/h9-18,26-28,30-33,35,46-48,53H,19-21H2,1-8H3,(H,44,52);3*1H2/t26-,27-,28+,30-,31+,32+,33-,35-,41+,42-,43-;;;/m0.../s1
